US05552420
To a solution of 5-carbomethoxy-1-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole (868 mg, 2.34 mmol) in 23 ml of THF was added dropwise at 0° C. a solution of 1M LAH in THF (1.52 ml, 1.52 mmol). The mixture was stirred for 20 min at 0° C. and then stirred at 20° C. for 24 h. Rochelle salt solution was added to the mixture and the solution was stirred at 20° C. for 10 min. Ethyl acetate was added to the above mixture and the aqueous layer was extracted with methylene chloride (3×). The combined organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (16 cm column, methylene chloride/acetone, 8/1-0/1) to afford 132 mg (18%) of 2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]propyl]-1,2,4-triazole, m.p. 76°-78° C.

reactant | 5-carbomethoxy-1-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole | 2.34 mmol, 868 mg | C(=O)(OC)C1=NC=NN1CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C17H21N7O3
reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 23 ml | C1CCOC1 | C4H8O
solvent | THF | 1.52 mmol, 1.52 ml | C1CCOC1 | C4H8O
product | 2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]propyl]-1,2,4-triazole | 132 mg, 18% | CN1N=C(N=N1)C1=CC(=C(OCCCN2N=CN=C2)C(=C1)C)C | C15H19N7O
